* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 25.266207246390046
Fd1_1 0 s1 V1 1263.3103623195022
Gr1_re_1_1 0 s1 x1_re_a1 0 14827055326497.172
Gr1_im_1_1 0 s1 x1_im_a1 0 -918907992726.935
Gr2_1_1 0 s1 x2_a1 0 -198690359530500.0
Gr3_re_1_1 0 s1 x3_re_a1 0 4493531208654.732
Gr3_im_1_1 0 s1 x3_im_a1 0 -1184549262958.7903
Gr4_1_1 0 s1 x4_a1 0 241038887238337.4
Gr5_re_1_1 0 s1 x5_re_a1 0 5442950696493.79
Gr5_im_1_1 0 s1 x5_im_a1 0 10807688697625.945
Gr6_re_1_1 0 s1 x6_re_a1 0 106675883666.2608
Gr6_im_1_1 0 s1 x6_im_a1 0 -606086711349.4738
Gr7_1_1 0 s1 x7_a1 0 -463505575453718.2
Gr8_1_1 0 s1 x8_a1 0 -279011674603999.34
Gr9_1_1 0 s1 x9_a1 0 -4758511195836.374
Gr10_1_1 0 s1 x10_a1 0 350068372923804.3
Gr11_1_1 0 s1 x11_a1 0 248009654182082.7
Gr12_1_1 0 s1 x12_a1 0 6760450540151.549
Gr13_1_1 0 s1 x13_a1 0 -903485375591.0365
Gr14_1_1 0 s1 x14_a1 0 -13481121453.924368
Gr15_1_1 0 s1 x15_a1 0 565932441778.1313
Gr16_1_1 0 s1 x16_a1 0 511727552285.51324
Gr17_1_1 0 s1 x17_a1 0 -95024657030.04138
Gr18_1_1 0 s1 x18_a1 0 -1233991054.637329
Gr19_1_1 0 s1 x19_a1 0 68418045299.81132
Gr20_1_1 0 s1 x20_a1 0 30077308291.847046
Gd1_2 0 s1 p2 0 21.625456433187505
Fd1_2 0 s1 V2 1081.2728216593753
Gr1_re_1_2 0 s1 x1_re_a2 0 12701731423753.365
Gr1_im_1_2 0 s1 x1_im_a2 0 -910075821799.1786
Gr2_1_2 0 s1 x2_a2 0 -167408383041986.28
Gr3_re_1_2 0 s1 x3_re_a2 0 3852603791113.177
Gr3_im_1_2 0 s1 x3_im_a2 0 -1096612816892.1198
Gr4_1_2 0 s1 x4_a2 0 191082983734547.44
Gr5_re_1_2 0 s1 x5_re_a2 0 4998727537735.513
Gr5_im_1_2 0 s1 x5_im_a2 0 8983687567666.547
Gr6_re_1_2 0 s1 x6_re_a2 0 65070412388.32253
Gr6_im_1_2 0 s1 x6_im_a2 0 -527331013034.7823
Gr7_1_2 0 s1 x7_a2 0 -181556410092032.03
Gr8_1_2 0 s1 x8_a2 0 -203880943201477.53
Gr9_1_2 0 s1 x9_a2 0 -5957345478054.628
Gr10_1_2 0 s1 x10_a2 0 205473366605486.22
Gr11_1_2 0 s1 x11_a2 0 66717034899109.875
Gr12_1_2 0 s1 x12_a2 0 9235176319916.072
Gr13_1_2 0 s1 x13_a2 0 -933353623893.8297
Gr14_1_2 0 s1 x14_a2 0 -13477868683.18733
Gr15_1_2 0 s1 x15_a2 0 594340260941.8743
Gr16_1_2 0 s1 x16_a2 0 525298153953.0162
Gr17_1_2 0 s1 x17_a2 0 -92068892660.4405
Gr18_1_2 0 s1 x18_a2 0 -1180894603.906848
Gr19_1_2 0 s1 x19_a2 0 66190222999.2884
Gr20_1_2 0 s1 x20_a2 0 29263639988.256493
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 9.624713589806187e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 29273454304.849174
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -29273454304.849174
Rp1_im_im_a1 0 x1_im_a1 9.624713589806187e-11
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.6773566046924014e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.2587658192426157e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 17721033103.78889
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -17721033103.78889
Rp3_im_im_a1 0 x3_im_a1 1.2587658192426157e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 8.983580009736805e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0600588432077037e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 9289892491.170864
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -9289892491.170864
Rp5_im_im_a1 0 x5_im_a1 1.0600588432077037e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.538751529012211e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 8811552901.330471
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -8811552901.330471
Rp6_im_im_a1 0 x6_im_a1 1.538751529012211e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.6848775640107566e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.1994251325710366e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.750887146423492e-10
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.511160269205603e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 1.7445721357899148e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 2.5387015771254747e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 5.542711896938947e-10
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 9.34113183561856e-10
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 4.742508988523298e-10
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 5.976828537200244e-10
Cx17_a1 x17_a1 0 1.0
Gx17_a1 0 x17_a1 p1 0 0.07071067811865475
Fx17_a1 0 x17_a1 V1 3.5355339059327378
Rp17_a1 0 x17_a1 1.9944572430404023e-09
Cx18_a1 x18_a1 0 1.0
Gx18_a1 0 x18_a1 p1 0 0.07071067811865475
Fx18_a1 0 x18_a1 V1 3.5355339059327378
Rp18_a1 0 x18_a1 2.6875703360885767e-09
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 2.0693672679307046e-09
Cx20_a1 x20_a1 0 1.0
Gx20_a1 0 x20_a1 p1 0 0.07071067811865475
Fx20_a1 0 x20_a1 V1 3.5355339059327378
Rp20_a1 0 x20_a1 1.7999386433206874e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 21.625456433187505
Fd2_1 0 s2 V1 1081.2728216593753
Gr1_re_2_1 0 s2 x1_re_a1 0 12701731423753.365
Gr1_im_2_1 0 s2 x1_im_a1 0 -910075821799.1786
Gr2_2_1 0 s2 x2_a1 0 -167408383041986.28
Gr3_re_2_1 0 s2 x3_re_a1 0 3852603791113.177
Gr3_im_2_1 0 s2 x3_im_a1 0 -1096612816892.1198
Gr4_2_1 0 s2 x4_a1 0 191082983734547.44
Gr5_re_2_1 0 s2 x5_re_a1 0 4998727537735.513
Gr5_im_2_1 0 s2 x5_im_a1 0 8983687567666.547
Gr6_re_2_1 0 s2 x6_re_a1 0 65070412388.32253
Gr6_im_2_1 0 s2 x6_im_a1 0 -527331013034.7823
Gr7_2_1 0 s2 x7_a1 0 -181556410092032.03
Gr8_2_1 0 s2 x8_a1 0 -203880943201477.53
Gr9_2_1 0 s2 x9_a1 0 -5957345478054.628
Gr10_2_1 0 s2 x10_a1 0 205473366605486.22
Gr11_2_1 0 s2 x11_a1 0 66717034899109.875
Gr12_2_1 0 s2 x12_a1 0 9235176319916.072
Gr13_2_1 0 s2 x13_a1 0 -933353623893.8297
Gr14_2_1 0 s2 x14_a1 0 -13477868683.18733
Gr15_2_1 0 s2 x15_a1 0 594340260941.8743
Gr16_2_1 0 s2 x16_a1 0 525298153953.0162
Gr17_2_1 0 s2 x17_a1 0 -92068892660.4405
Gr18_2_1 0 s2 x18_a1 0 -1180894603.906848
Gr19_2_1 0 s2 x19_a1 0 66190222999.2884
Gr20_2_1 0 s2 x20_a1 0 29263639988.256493
Gd2_2 0 s2 p2 0 25.26504302401755
Fd2_2 0 s2 V2 1263.2521512008777
Gr1_re_2_2 0 s2 x1_re_a2 0 14826529410821.012
Gr1_im_2_2 0 s2 x1_im_a2 0 -918367343642.0936
Gr2_2_2 0 s2 x2_a2 0 -198689127992208.28
Gr3_re_2_2 0 s2 x3_re_a2 0 4493612077761.161
Gr3_im_2_2 0 s2 x3_im_a2 0 -1184309748021.1758
Gr4_2_2 0 s2 x4_a2 0 241061177807984.97
Gr5_re_2_2 0 s2 x5_re_a2 0 5442152177839.232
Gr5_im_2_2 0 s2 x5_im_a2 0 10807704972956.303
Gr6_re_2_2 0 s2 x6_re_a2 0 106731313619.1775
Gr6_im_2_2 0 s2 x6_im_a2 0 -606048310888.4358
Gr7_2_2 0 s2 x7_a2 0 -463925148332484.1
Gr8_2_2 0 s2 x8_a2 0 -279072617063792.75
Gr9_2_2 0 s2 x9_a2 0 -4754472951033.113
Gr10_2_2 0 s2 x10_a2 0 350246857263380.9
Gr11_2_2 0 s2 x11_a2 0 248295808453819.16
Gr12_2_2 0 s2 x12_a2 0 6753162053923.859
Gr13_2_2 0 s2 x13_a2 0 -903092503946.0087
Gr14_2_2 0 s2 x14_a2 0 -13475656207.929487
Gr15_2_2 0 s2 x15_a2 0 565671658656.4276
Gr16_2_2 0 s2 x16_a2 0 511509419207.93054
Gr17_2_2 0 s2 x17_a2 0 -94985806900.7944
Gr18_2_2 0 s2 x18_a2 0 -1233491198.1155198
Gr19_2_2 0 s2 x19_a2 0 68390083199.38715
Gr20_2_2 0 s2 x20_a2 0 30065011639.15684
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 9.624713589806187e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 29273454304.849174
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -29273454304.849174
Rp1_im_im_a2 0 x1_im_a2 9.624713589806187e-11
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.6773566046924014e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.2587658192426157e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 17721033103.78889
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -17721033103.78889
Rp3_im_im_a2 0 x3_im_a2 1.2587658192426157e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 8.983580009736805e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0600588432077037e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 9289892491.170864
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -9289892491.170864
Rp5_im_im_a2 0 x5_im_a2 1.0600588432077037e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.538751529012211e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 8811552901.330471
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -8811552901.330471
Rp6_im_im_a2 0 x6_im_a2 1.538751529012211e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.6848775640107566e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.1994251325710366e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.750887146423492e-10
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.511160269205603e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 1.7445721357899148e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 2.5387015771254747e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 5.542711896938947e-10
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 9.34113183561856e-10
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 4.742508988523298e-10
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 5.976828537200244e-10
Cx17_a2 x17_a2 0 1.0
Gx17_a2 0 x17_a2 p2 0 0.07071067811865475
Fx17_a2 0 x17_a2 V2 3.5355339059327378
Rp17_a2 0 x17_a2 1.9944572430404023e-09
Cx18_a2 x18_a2 0 1.0
Gx18_a2 0 x18_a2 p2 0 0.07071067811865475
Fx18_a2 0 x18_a2 V2 3.5355339059327378
Rp18_a2 0 x18_a2 2.6875703360885767e-09
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 2.0693672679307046e-09
Cx20_a2 x20_a2 0 1.0
Gx20_a2 0 x20_a2 p2 0 0.07071067811865475
Fx20_a2 0 x20_a2 V2 3.5355339059327378
Rp20_a2 0 x20_a2 1.7999386433206874e-09
.ENDS s_equivalent
