* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.06291681072822161
Fd1_1 0 s1 V1 3.145840536411081
Gr1_re_1_1 0 s1 x1_re_a1 0 99129169677.81245
Gr1_im_1_1 0 s1 x1_im_a1 0 -58762501927.12522
Gr2_re_1_1 0 s1 x2_re_a1 0 -5544747487556.002
Gr2_im_1_1 0 s1 x2_im_a1 0 2717800685274.776
Gr3_re_1_1 0 s1 x3_re_a1 0 9391089856784.463
Gr3_im_1_1 0 s1 x3_im_a1 0 21553985867742.72
Gr4_re_1_1 0 s1 x4_re_a1 0 -742976628775.0763
Gr4_im_1_1 0 s1 x4_im_a1 0 1842228345289.6716
Gr5_1_1 0 s1 x5_a1 0 -568629834546785.4
Gr6_re_1_1 0 s1 x6_re_a1 0 -4.413186391368465e+16
Gr6_im_1_1 0 s1 x6_im_a1 0 -3.668575120647359e+16
Gr7_1_1 0 s1 x7_a1 0 9.153694050745837e+16
Gr8_1_1 0 s1 x8_a1 0 3.1583443276220668e+16
Gr9_1_1 0 s1 x9_a1 0 -3.162503496419459e+16
Gr10_1_1 0 s1 x10_a1 0 -6206219346080880.0
Gr11_1_1 0 s1 x11_a1 0 3657403128004409.5
Gr12_re_1_1 0 s1 x12_re_a1 0 -60331034643454.49
Gr12_im_1_1 0 s1 x12_im_a1 0 6.377460197364297e+16
Gd1_2 0 s1 p2 0 0.046366947353641164
Fd1_2 0 s1 V2 2.3183473676820583
Gr1_re_1_2 0 s1 x1_re_a2 0 95746040558.0036
Gr1_im_1_2 0 s1 x1_im_a2 0 -66595888869.34515
Gr2_re_1_2 0 s1 x2_re_a2 0 -5553890592428.077
Gr2_im_1_2 0 s1 x2_im_a2 0 2754062452571.8
Gr3_re_1_2 0 s1 x3_re_a2 0 9390367442292.475
Gr3_im_1_2 0 s1 x3_im_a2 0 21533274901028.71
Gr4_re_1_2 0 s1 x4_re_a2 0 -741981720867.7911
Gr4_im_1_2 0 s1 x4_im_a2 0 1839885747182.091
Gr5_1_2 0 s1 x5_a2 0 -567870090809368.1
Gr6_re_1_2 0 s1 x6_re_a2 0 -4.4076416565583016e+16
Gr6_im_1_2 0 s1 x6_im_a2 0 -3.663969414999486e+16
Gr7_1_2 0 s1 x7_a2 0 9.142192934945984e+16
Gr8_1_2 0 s1 x8_a2 0 3.1543823899529628e+16
Gr9_1_2 0 s1 x9_a2 0 -3.1585362339591344e+16
Gr10_1_2 0 s1 x10_a2 0 -6198435522355856.0
Gr11_1_2 0 s1 x11_a2 0 3652816698696751.5
Gr12_re_1_2 0 s1 x12_re_a2 0 -60255597900144.766
Gr12_im_1_2 0 s1 x12_im_a2 0 6.3694624762108536e+16
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.4857936236796677e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 20029756275.052685
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -20029756275.052685
Rp1_im_im_a1 0 x1_im_a1 1.4857936236796677e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 8.33574952271773e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 13288651900.798279
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -13288651900.798279
Rp2_im_im_a1 0 x2_im_a1 8.33574952271773e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.069300123994389e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8699715010.244017
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8699715010.244017
Rp3_im_im_a1 0 x3_im_a1 1.069300123994389e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 2.405214216199229e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 7025764380.9535265
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -7025764380.9535265
Rp4_im_im_a1 0 x4_im_a1 2.405214216199229e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.1454932399089724e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.280494316094973e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 276744274.43403256
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -276744274.43403256
Rp6_im_im_a1 0 x6_im_a1 2.280494316094973e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 2.1815894696680379e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 5.055877453815143e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 4.745021798342718e-10
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 9.443443525740378e-10
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 2.763337112585291e-09
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 1.8126172239643263e-09
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 13300781.094256802
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -13300781.094256802
Rp12_im_im_a1 0 x12_im_a1 1.8126172239643263e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.046366947353641164
Fd2_1 0 s2 V1 2.3183473676820583
Gr1_re_2_1 0 s2 x1_re_a1 0 95746040558.46754
Gr1_im_2_1 0 s2 x1_im_a1 0 -66595888868.02708
Gr2_re_2_1 0 s2 x2_re_a1 0 -5553890592614.335
Gr2_im_2_1 0 s2 x2_im_a1 0 2754062452474.252
Gr3_re_2_1 0 s2 x3_re_a1 0 9390367441853.707
Gr3_im_2_1 0 s2 x3_im_a1 0 21533274902270.64
Gr4_re_2_1 0 s2 x4_re_a1 0 -741981721072.694
Gr4_im_2_1 0 s2 x4_im_a1 0 1839885747295.3484
Gr5_2_1 0 s2 x5_a1 0 -567870090846606.1
Gr6_re_2_1 0 s2 x6_re_a1 0 -4.407641656922e+16
Gr6_im_2_1 0 s2 x6_im_a1 0 -3.663969415302449e+16
Gr7_2_1 0 s2 x7_a1 0 9.14219293569843e+16
Gr8_2_1 0 s2 x8_a1 0 3.1543823901485524e+16
Gr9_2_1 0 s2 x9_a1 0 -3.158536234163787e+16
Gr10_2_1 0 s2 x10_a1 0 -6198435522561251.0
Gr11_2_1 0 s2 x11_a1 0 3652816698696052.5
Gr12_re_2_1 0 s2 x12_re_a1 0 -60255597857579.39
Gr12_im_2_1 0 s2 x12_im_a1 0 6.3694624762730904e+16
Gd2_2 0 s2 p2 0 0.06280036426307072
Fd2_2 0 s2 V2 3.140018213153536
Gr1_re_2_2 0 s2 x1_re_a2 0 98888716713.86082
Gr1_im_2_2 0 s2 x1_im_a2 0 -58595246622.052315
Gr2_re_2_2 0 s2 x2_re_a2 0 -5530799807204.004
Gr2_im_2_2 0 s2 x2_im_a2 0 2710883831213.7188
Gr3_re_2_2 0 s2 x3_re_a2 0 9367505169912.72
Gr3_im_2_2 0 s2 x3_im_a2 0 21499909421103.52
Gr4_re_2_2 0 s2 x4_re_a2 0 -741113617199.9055
Gr4_im_2_2 0 s2 x4_im_a2 0 1837607467713.0774
Gr5_2_2 0 s2 x5_a2 0 -567203807021604.1
Gr6_re_2_2 0 s2 x6_re_a2 0 -4.4021193094505384e+16
Gr6_im_2_2 0 s2 x6_im_a2 0 -3.6593756374769704e+16
Gr7_2_2 0 s2 x7_a2 0 9.130739131611835e+16
Gr8_2_2 0 s2 x8_a2 0 3.150426133401109e+16
Gr9_2_2 0 s2 x9_a2 0 -3.154574720466812e+16
Gr10_2_2 0 s2 x10_a2 0 -6190662342839416.0
Gr11_2_2 0 s2 x11_a2 0 3648236306439814.0
Gr12_re_2_2 0 s2 x12_re_a2 0 -60180179299045.266
Gr12_im_2_2 0 s2 x12_im_a2 0 6.361475404917917e+16
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.4857936236796677e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 20029756275.052685
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -20029756275.052685
Rp1_im_im_a2 0 x1_im_a2 1.4857936236796677e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 8.33574952271773e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 13288651900.798279
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -13288651900.798279
Rp2_im_im_a2 0 x2_im_a2 8.33574952271773e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.069300123994389e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8699715010.244017
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8699715010.244017
Rp3_im_im_a2 0 x3_im_a2 1.069300123994389e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 2.405214216199229e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 7025764380.9535265
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -7025764380.9535265
Rp4_im_im_a2 0 x4_im_a2 2.405214216199229e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.1454932399089724e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.280494316094973e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 276744274.43403256
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -276744274.43403256
Rp6_im_im_a2 0 x6_im_a2 2.280494316094973e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 2.1815894696680379e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 5.055877453815143e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 4.745021798342718e-10
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 9.443443525740378e-10
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 2.763337112585291e-09
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 1.8126172239643263e-09
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 13300781.094256802
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -13300781.094256802
Rp12_im_im_a2 0 x12_im_a2 1.8126172239643263e-09
.ENDS s_equivalent
